US07981882B2
2,3-Bis-(2-methanesulfonyloxyethyl)-1-methoxybenzene
To a slurry of 2,3-bis-(2-hydroxyethyl)-1-methoxybenzene (50.6 g, 0.258 mol, 1 equiv.) and triethylamine (78.3 g, 0.774 mol, 3 equiv.) in DCM (500 mL) at 0° C., add dropwise a solution of methanesulfonyl chloride (65.0 g, 0.567 mol, 2.2 equiv.) in DCM (100 mL) over 45 min. The addition is exothermic and the methanesulfonyl chloride is added at a rate to keep the temperature below 10° C. After the addition is complete, warm the reaction to RT. Wash the solution with water (2×500 mL), and then brine (750 mL). Dry (sodium sulfate) and concentrate to give the title compound as a dark yellow oil (87.4 g, 96.2%), which is used in the next reaction without further purification. An analytical sample is obtained utilizing silica gel chromatography, eluting with 100% diethyl ether.

reactant | 2,3-bis-(2-hydroxyethyl)-1-methoxybenzene | 0.258 mol, 50.6 g, 1 equiv. | OCCC1=C(C=CC=C1CCO)OC | C11H16O3
reactant | triethylamine | 0.774 mol, 78.3 g, 3 equiv. | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.567 mol, 65.0 g, 2.2 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,3-Bis-(2-methanesulfonyloxyethyl)-1-methoxybenzene | 87.4 g, 96.2% | CS(=O)(=O)OCCC1=C(C=CC=C1CCOS(=O)(=O)C)OC | C13H20O7S2
